US05114461
2-Nitro-4-trifluoromethylbenzoyl chloride (4 g) was added at 0°-5° C. to a stirred solution of triethylamine (2.2 ml) and 6-methyltetrahydropyran-2,4-dione (2 g) in dry acetonitrile (25 ml) and the mixture was stirred at ambient temperature for 4 hours. Triethylamine (6.4 ml) and acetone cyanohydrin (0.3 ml) were added successively to the solution and the mixture stirred at ambient temperature for a further 2 hours. The mixture was diluted with dichloromethane (50 ml) and washed successively with 2N hydrochloric acid (20 ml) and water (3×20 ml). The dichloromethane solution was dried over sodium sulphate and evaporated under reduced pressure to give a brown gum which was triturated with a mixture of chloroform and hexane (1:1, 20 ml) to give 3-(2-nitro-4-trifluoromethylbenzoyl)-6-methyltetrahydropyran-2,4-dione (2.2 g), mp 135°-136.5° C., as a light cream crystalline solid.

reactant | 2-Nitro-4-trifluoromethylbenzoyl chloride | 4 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC(=C1)C(F)(F)F | C8H3ClF3NO3
reactant | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | 6-methyltetrahydropyran-2,4-dione | 2 g | CC1CC(CC(O1)=O)=O | C6H8O3
reactant | Triethylamine | 6.4 ml | C(C)N(CC)CC | C6H15N
reactant | acetone cyanohydrin | 0.3 ml | CC(C#N)(O)C | C4H7NO
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-(2-nitro-4-trifluoromethylbenzoyl)-6-methyltetrahydropyran-2,4-dione | 2.2 g | [N+](=O)([O-])C1=C(C(=O)C2C(OC(CC2=O)C)=O)C=CC(=C1)C(F)(F)F | C14H10F3NO6
